US08034954B2
Part A: A mixture of sodium metal (1.55 g, 67.4 mmol) and EtOH (15.0 mL, 257 mmol) was stirred at RT until nearly all sodium had reacted. Diethyl fluoromalonate (3.54 mL, 22.4 mmol) was added followed by acetamidine hydrochloride (2.14 g, 22.7 mmol). The reaction mixture was heated at reflux for 3 h, cooled to RT and concentrated under reduced pressure. The residue was diluted with water (ca. 50 mL) and acidified (pH=2) with 6M aqueous HCl, and the mixture was stirred at RT for 1 h as a precipitate formed. The solids were collected by suction filtration and washed with water. Excess solvent was removed in vacuo to give 4,6-dihydroxy-5-fluoro-2-methylpyrimidine (2.08 g, 64%) as a light gray solid. LCMS (m/z): 145 (M+H)+

reactant | sodium | 67.4 mmol, 1.55 g | [Na] | Na
reactant | EtOH | 257 mmol, 15.0 mL | CCO | C2H6O
reactant | Diethyl fluoromalonate | 22.4 mmol, 3.54 mL | FC(C(=O)OCC)C(=O)OCC | C7H11FO4
reactant | acetamidine hydrochloride | 22.7 mmol, 2.14 g | Cl.C(C)(=N)N
product | 4,6-dihydroxy-5-fluoro-2-methylpyrimidine | 2.08 g, 64% | OC1=NC(=NC(=C1F)O)C | C5H5FN2O2
